US06083961
To a solution of 4-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (90 mg) and 4-aminopyridine (14.3 mg) in N,N-dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (31.7 mg) and 1-hydroxybenzotriazole (26.4 mg) at ambient temperature, and after standing for 1 day, the mixture was stirred for 8 hours at 50° C. To the mixture was added water, and extracted with ethyl acetate. The extract was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol, 12:1, v/v) to give 4-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(4-pyridylcarbamoyl)pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methoxy-1-methyl-1H-benzimidazole (7.8 mg).

reactant | 4-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 90 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC1)Cl)Cl | C28H25Cl2N5O6
reactant | 4-aminopyridine | 14.3 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 31.7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 26.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(4-pyridylcarbamoyl)pyridin-3-yl]acryloylglycyl]amino]benzyloxy]-2-methoxy-1-methyl-1H-benzimidazole | 7.8 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)OC)C)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)C(NC1=CC=NC=C1)=O)=O)=O)C)Cl | C33H29Cl2N7O5
